US07034052B2
To a solution of (3R)-3-[4-chloro-7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(3-ethoxy-4-methoxy-phenyl)-propionic acid (0.62 g, 1.3 mmol) in tetrahydrofurane (5 ml) was added carbonyldiimidazole (0.3 g, 2 mmol) at room temperature. The solution was stirred for 2 hours at room temperature. To the mixture was added THF solution of dimethylamine (2 M, 1.3 ml, 2.6 mmol). The resulted mixture was stirred at room temperature for 4 hrs. Water (20 ml) was added to the reaction mixture. THF was removed in vacuo and to the resulted mixture was added ethyl acetate (30 ml). The mixture was washed with saturated sodium bicarbonate solution (3×20 ml), water (20 ml) and brine (20 ml). The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The resulted oil was stirred with ether (5 ml) for 2 hrs and filtered to give (1R)-cyclopropanecarboxylic acid {7-chloro-2-[2-dimethylcarbamoyl-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide as white solid (0.5 g, 77%): mp 163–165° C.; 1HNMR (CDCl3): δ 0.86–0.89 (m, 2H, c-CH2), 1.08–1.11(m, 2H, c-CH2), 1.46 (t, J=7.5 Hz, 3H, OCH2CH3), 1.65–1.68 (m, 1H, c-CH), 2.93 (s, 3H, NCH3), 3.04 (dd, J=5, 16 Hz, 1H, CHH), 3.12 (s, 3H, NCH3), 3.56 (dd, J=5, 16 Hz, 1H, CHH), 3.86 (s, 3H, OCH3), 4.10 (q, J=7.5 Hz, 2H, OCH2CH3), 4.25 (d, J=17 Hz, 1H, NCHH), 4.60 (d, J=17 Hz, 1H, NCHH), 5.58–5.64 (m, 1H, CHN), 6.83–6.97 (m, 3H, Ar), 7.35 (d, J=9 Hz, 1H, Ar), 8.41 (d, J=9 Hz, 1H, Ar), 10.51 (s, 1H, NH); 13C NMR (CDCl3): 8.9, 15.4, 16.8, 36.2, 36.6, 38.0, 48.6, 54.3, 56.6, 65.2, 112.1, 113.1, 119.8, 120.0, 120.1, 122.3, 132.2, 133.2, 137.3, 139.9, 149.2, 149.8, 169.4, 170.1, 173.2; Anal. Calcd. for C26H30ClN3O5: C, 62.46; H, 6.05; N, 8.40. Found: C, 62.43; H, 5.42; N, 8.51.

reactant | (3R)-3-[4-chloro-7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(3-ethoxy-4-methoxy-phenyl)-propionic acid | 1.3 mmol, 0.62 g | ClC1=C2CN(C(C2=C(C=C1)NC(=O)C1CC1)=O)[C@H](CC(=O)O)C1=CC(=C(C=C1)OC)OCC | C24H25ClN2O6
reactant | carbonyldiimidazole | 2 mmol, 0.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | 2.6 mmol, 2 M, 1.3 ml | CNC | C2H7N
reactant | Water | 20 ml | O | H2O
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | (1R)-cyclopropanecarboxylic acid {7-chloro-2-[2-dimethylcarbamoyl-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 0.5 g, 77% | ClC=1C=CC(=C2C(N(CC12)[C@H](CC(N(C)C)=O)C1=CC(=C(C=C1)OC)OCC)=O)NC(=O)C1CC1 | C26H30ClN3O5
